*LM317 Voltage Reg. (Motorola)
.SUBCKT LM317_MOT_2  1     2     3
*Connections     Input  Adj. Output
*LM317 voltage regulator
J1 1 3 4 JN 
Q2 5 5 6 QPL .25   
Q3 5 8 9 QNL    
Q4 8 5 7 QPL .25   
Q5 81 8 3 QNL   
Q6 3 81 10 QPL  
Q7 12 81 13 QNL 
Q8 10 5 11 QPL  
Q9 14 12 10 QPL 
Q10 16 5 17 QPL 
Q11 16 14 15 QNL
Q12 3 20 16 QPL 
Q13 1 19 20 QNL 
Q14 19 5 18 QPL 
Q15 3 21 19 QPL 
Q16 21 22 16 QPL
Q17 21 3 24 QNL 
Q18 22 22 16 QPL
Q19 22 3 241 QNL 10 
Q20 3 25 16 QPL 
Q21 25 26 3 QNL 
Q22A 35 35 1 QPL 2  
Q22B 16 35 1 QPL 2 
Q23 35 16 30 QNL 2 
Q24A 27 40 29 QNL   
Q24B 27 40 28 QNL   
Q25 1 31 41 QNL 40  
Q26 1 41 32 QNL 200 
D1 3 4 DZ   
D2 33 1 DZ  
D3 29 34 DZ 
R1 1 6 310  
R2 1 7 310  
R3 1 11 190 
R4 1 17 82  
R5 1 18 5.6K    
R6 4 8 125K 
R7 8 81 130 
R8 10 12 12.4K  
R9 9 3 180  
R10 13 3 4.1K   
R11 14 3 5.8K   
R12 15 3 72 
R13 20 3 5.1K   
R14 2 24 12K    
R15 24 241 2.4K 
R16 16 25 6.7K  
R17 16 40 12K   
R18 30 41 160   
R19 16 31 170   
R20 26 27 13K   
R21 27 40 400   
R22 3 41 160    
R23 33 34 18K   
R24 28 29 160   
R25 28 32 3 
R26 32 3 .1 
C1 21 3 30PF    
C2 21 2 30PF    
C3 25 26 5PF    
.MODEL JN NJF(BETA=1E-4 VTO=-7) 
.MODEL DZ D(BV=6.3) 
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=2PF TF=.3NS TR=6NS CJE=3PF  
+ CJC=2PF VAF=100)   
.MODEL QPL PNP(BF=40 RB=20 TF=1NS TR=20NS CJE=6PF CJC=4PF VAF=100)   
.ENDS   LM317_MOT_2
